US04000275
6-(4-Isopropoxybenzoyl)-3,8,9-trimethylbenzimidazo[2,1-b]-quinazolin-12(6H)one is prepared with 3,8,9-trimethylbenzimidazo[2,1-b]quinazolin-12(6H)one and 4-isopropoxybenzoyl chloride.

reactant | 3,8,9-trimethylbenzimidazo[2,1-b]quinazolin-12(6H)one | CC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=C(C(=C1)C)C)=O | C17H15N3O
reactant | 4-isopropoxybenzoyl chloride | C(C)(C)OC1=CC=C(C(=O)Cl)C=C1 | C10H11ClO2
product | 6-(4-Isopropoxybenzoyl)-3,8,9-trimethylbenzimidazo[2,1-b]-quinazolin-12(6H)one | C(C)(C)OC1=CC=C(C(=O)N2C3=C(C=C(C(=C3)C)C)N3C2=NC2=CC(=CC=C2C3=O)C)C=C1 | C27H25N3O3
